US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)-3,3-dimethylbutanamide
The titled compound was prepared following the procedure M using 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and tert-butyl acetyl chloride as an orange solid (71%). 1HNMR (CDCl3, 300 MHz) δ: 7.91 (d, J=8.3 Hz, 1H), 7.43 (m, 2H), 7.39 (m, 2H), 7.16 (m, 2H), 7.14 (m, 2H), 6.76 (m, 0.5H), 6.73 (m, 0.5H), 6.55 (m, 1H), 4.88 (s, 2H), 2.61 (t, J=7.7 Hz, 2H), 2.09 (s, 2H), 1.71 (s, 6H), 1.67-1.54 (m, 2H), 1.41-1.27 (m, 2H), 1.00 (s, 9H), 0.92 (t, J=7.4 Hz, 3H). HPLC, Rt: 6.02 min, (Purity: 98.9%).

reactant | 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C29H29NO3
reactant | tert-butyl acetyl chloride | C(C)(C)(C)CC(=O)Cl | C6H11ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)-3,3-dimethylbutanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CC(C)(C)C)=O)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C35H39NO4
